US20010056207A1
Preparation of N-[3-[[2-(3,4-dimethoxyphenyl)ethyl]amino]propyl]-4-nitrobenzamide, Hydrochloride Hydrate
A solution of 9:1 ethanol:water (v/v) (7.5 liters) was added to N-[3-[[2-(3,4-dimethoxyphenyl)ethyl]amino]propyl]-4-nitrobenzamide hydrochloride (2.44 kg, 4.86 moles). The stirred suspension was then heated to 60° C. to give a clear solution. This solution was hot filtered then cooled to 30° C. in a water bath. A small sample was removed and scratched to induce crystallisation. The crystals were added to the bulk solution and this was allowed to stir and crystallise overnight at ambient temperature. The resulting suspension was cooled in an ice bath for 2 hrs. The solid product was filtered, washed with 9:1 ethanol:water (v/v) (1.5 liters), then ethanol (750 mls) and dried in a vacuum oven fitted with a filtered air bleed at 30-33° C. to constant weight to give the titled product as a yellow solid.

reactant | ethanol | C(C)O | C2H6O
reactant | N-[3-[[2-(3,4-dimethoxyphenyl)ethyl]amino]propyl]-4-nitrobenzamide hydrochloride | 4.86 moles, 2.44 kg | Cl.COC=1C=C(C=CC1OC)CCNCCCNC(C1=CC=C(C=C1)[N+](=O)[O-])=O
solvent | water | 7.5 liters | O | H2O
product | N-[3-[[2-(3,4-dimethoxyphenyl)ethyl]amino]propyl]-4-nitrobenzamide, Hydrochloride Hydrate | O.Cl.COC=1C=C(C=CC1OC)CCNCCCNC(C1=CC=C(C=C1)[N+](=O)[O-])=O | InChI=1S/C20H25N3O5.ClH.H2O/c1-27-18-9-4-15(14-19(18)28-2)10-13-21-11-3-12-22-20(24)16-5-7-17(8-6-16)23(25)26;;/h4-9,14,21H,3,10-13H2,1-2H3,(H,22,24);1H;1H2
